US06586617B1
Synthesis of 2-Chloro-2′,4′-dinitro-N-methoxybenzenesulfonanilide (Compound No. 563)
To a suspension of sodium hydride (60%, 0.09 g (2.25 mmol)) in DMF (3.0 ml), 2-chloro-N-methoxybenzenesulfonamide (0.48 g (2.17 mmol)) was added with stirring under cooling with ice. To the resulting mixture, after 15 minutes' stirring under cooling with ice, 2,4-dinitrochlorobenzene (0.41 g (2.02 mmol)) was added. The resulting mixture was then stirred under cooling with ice for one hour and at room temperature for one hour. Water was added to the reaction mixture and the resulting mixture was extracted with diethyl ether. The extract was washed with water, dilute hydrochloric acid and a saturated aqueous solution of sodium chloride, successively, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure, to give 0.49 g (62%) of the title compound as pale yellow crystals.

reactant | sodium hydride | 2.25 mmol, 0.09 g | [H-].[Na+]
reactant | 2-chloro-N-methoxybenzenesulfonamide | 2.17 mmol, 0.48 g | ClC1=C(C=CC=C1)S(=O)(=O)NOC | C7H8ClNO3S
reactant | 2,4-dinitrochlorobenzene | 2.02 mmol, 0.41 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C6H3ClN2O4
reactant | Water | O | H2O
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
product | 2-Chloro-2′,4′-dinitro-N-methoxybenzenesulfonanilide | 0.49 g, 62% | ClC1=C(C=CC=C1)S(=O)(=O)N(C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])OC | C13H10ClN3O7S
